US04714764
(b) Preparation of 2- chloromethyl-4-methylbenzimidazole
A solution of 1.83 g (15 m mol) of 3-methyl-1,2-phenylenediamine in 20 ml of 4N aqueous hydrochloric acid was stored at room temperature overnight. To the solution was added 2.13 g (22.5 m mol) of monochloroacetic acid and refluxed for 3 hours. The reaction solution was cooled to room temperature, rendered alkaline by addition of ammonium hydroxide and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried on anhydrous sodium sulfate. The solvent was evaporated in vacuo and the residue was crystallized from ethyl ether to give 0.8 g (29.52%).

reactant | 3-methyl-1,2-phenylenediamine | 1.83 g | CC=1C(=C(C=CC1)N)N | C7H10N2
reactant | monochloroacetic acid | 2.13 g | ClCC(=O)O | C2H3ClO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 4N, 20 ml | Cl | ClH
product | 2- chloromethyl-4-methylbenzimidazole | ClCC=1NC2=C(N1)C=CC=C2C | C9H9ClN2
